US04303407
2-ethyl-hexylamine
n-hexylamine and/or 3-methyl-butylamine

reactant | n-hexylamine | C(CCCCC)N | C6H15N
reactant | 3-methyl-butylamine | CC(CCN)C | C5H13N
product | 2-ethyl-hexylamine | C(C)C(CN)CCCC | C8H19N
